US20010007873A1
EXAMPLE 34 4-(6-AMINO-PYRIDIN-2-YL)-3-METHOXY-6-PROPYL-PHENOL
Under a N2 atmosphere in a Parr bottle was dissolved 1.20 g (4.682 mmol) of 4-(6-amino-pyridin-2-yl)-3-methoxy-6-allyl-phenol in 25 mL of absolute ethanol. The ethanol solution was hydrogenated (50 PSI) for 45 minutes at ambient temperature. The reaction mixture was then filtered through a pad of celite which was washed with additional methanol. The combined filtrates were concentrated in vacuo to afford 1.20 g (99%) of the desired product.

reactant | 4-(6-amino-pyridin-2-yl)-3-methoxy-6-allyl-phenol | 4.682 mmol, 1.20 g | NC1=CC=CC(=N1)C1=C(C=C(C(=C1)CC=C)O)OC | C15H16N2O2
solvent | ethanol | 25 mL | C(C)O | C2H6O
product | 4-(6-AMINO-PYRIDIN-2-YL)-3-METHOXY-6-PROPYL-PHENOL | 1.20 g, 99% | NC1=CC=CC(=N1)C1=C(C=C(C(=C1)CCC)O)OC | C15H18N2O2
